US04383945
To a solution of 4-nitrobenzyl 4-{(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidine-2-yl}-3-oxobutanoate (58.3 mg) in acetonitrile (1.17 ml) was added a solution of p-toluenesulfonyl azide (25.3 mg) in acetonitrile (0.228 ml) at 0° C. After stirring for 5 minutes at 0° C., a solution of triethylamine (53.7 μl) in acetonitrile (0.483 ml) was added dropwise. The stirring mixture was allowed to warm to ambient temperature during 15 minutes and kept at the same temperature for 20 minutes. The solvent was distilled off and the residue (85.9 mg) was flash chromatographed on silica gel (1 g) eluting with a mixture of methylene chloride and ethyl acetate (50:1 to 3:1) to give 4-nitrobenzyl 2-diazo-4-{(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidine-2-yl}-3-oxobutanoate (58.4 mg) as an amorphous solid

reactant | 4-nitrobenzyl 4-{(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidine-2-yl}-3-oxobutanoate | 58.3 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1[C@H](NC1=O)CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C25H25N3O11
reactant | p-toluenesulfonyl azide | 25.3 mg | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | triethylamine | 53.7 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.17 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.228 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.483 ml | C(C)#N | C2H3N
product | 4-nitrobenzyl 2-diazo-4-{(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidine-2-yl}-3-oxobutanoate | 58.4 mg | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C[C@H]1NC([C@@H]1C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)=O | C25H23N5O11
